US04727082
In 30 ml of N,N-dimethylformamide were dissolved 2 g of dimethyl 4-[2-(2-aminoethoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate and 0.6 g of styrene oxide, and the solution thus formed was allowed to stand for 2 days at room temperature. The reaction solution was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography. The product was eluted with chloroform-methanol (95:5 v/v). Crude crystals were recrystallized from ethyl acetate to give 500 mg of dimethyl 4-[2-[2-(β-hydroxyphenethylamino)ethoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | dimethyl 4-[2-(2-aminoethoxy)-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 2 g | NCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C19H23N3O7
reactant | styrene oxide | 0.6 g | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | dimethyl 4-[2-[2-(β-hydroxyphenethylamino)ethoxy]-5-nitrophenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 500 mg | OC(CNCCOC1=C(C=C(C=C1)[N+](=O)[O-])C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC)C1=CC=CC=C1 | C27H31N3O8
